US05656626
8-Chloro-3-hydroxy-4-(4-nitrophenyl)-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine
8-Chloro-3-methoxy-4-(4-nitrophenyl)-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (125 mg) was dissolved in dichloromethane (10 mL). To this was added boron tribromide (1M in dichloromethane 1 mL). This suspension was stirred for one hour. Saturated sodium bicarbonate (5 mL) was then added, and this mixture stirred for 2-3 minutes. The mixture was then adjusted to pH 3 by addition of 6N HCl. This suspension was stirred for 40 minutes, then vacuum filtered and the collected solid washed with water and crystallized from dimethylformamide (2 mL) and water (6 mL) to yield the title compound (110 mg, 91%) as an off white solid; mp 310°-312° C.; NMR: 11.90 (s,1, NH), 10.7 (broad s,1, 0H), 8.26 (dd,2, J=6.9, 2.0), 7.92 (d,1, J=8.7), 7.51 (m,3), 7.34 (dd,1, J=8.7, 2.0); MS: m/z=345(M+1). Analysis for C16H9ClN2O5 : Calculated: C, 55.75; H, 2.63; N, 8.13; Found: C, 55.49; H, 2.54; N, 8.05

reactant | 8-Chloro-3-methoxy-4-(4-nitrophenyl)-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 125 mg | ClC=1C=CC2=C(NC(C(=C(C2=O)C2=CC=C(C=C2)[N+](=O)[O-])OC)=O)C1 | C17H11ClN2O5
reactant | boron tribromide | 1M, 1 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8-Chloro-3-hydroxy-4-(4-nitrophenyl)-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 110 mg, 91% | ClC=1C=CC2=C(NC(C(=C(C2=O)C2=CC=C(C=C2)[N+](=O)[O-])O)=O)C1 | C16H9ClN2O5
